US08710224B2
N-(3,4-Dichlorophenyl)-4-[(1-ethylpiperidin-3-yl)methyl]piperidine-1-carboxamide
A mixture of the alkenes N-(3,4-dichlorophenyl)-4-[1-ethylpiperidin-3-yl)methyl]-3,6-dihydropyridine-1(2H)-carboxamide and N-(3,4-dichlorophenyl)-4-[(1-ethylpiperidin-3-yl)methylene]piperidine-1-carboxamide (3:1) (40 mg) and 10% palladium on charcoal (30 mg) in ethanol (5 mL) was evacuated and purged with hydrogen. The mixture was left under an atmosphere of hydrogen for 4 hrs and then filtered through celite. The celite pad was washed with ethanol and the filtrate evaporated. The residue was purified using reverse phase HPLC eluting with a mixture of 5-95% acetonitrile in water and then by silica column chromatography, eluting with a gradient of 0 to 5% 7M NH3/MeOH in dichloromethane to give the title compound as a white solid (25 mg, 62%).

reactant | 3,6-dihydropyridine-1(2H)-carboxamide | N1(CCC=CC1)C(=O)N | C6H10N2O
reactant | N-(3,4-dichlorophenyl)-4-[(1-ethylpiperidin-3-yl)methylene]piperidine-1-carboxamide | 40 mg | ClC=1C=C(C=CC1Cl)NC(=O)N1CCC(CC1)=CC1CN(CCC1)CC | C20H27Cl2N3O
catalyst | palladium on charcoal | 30 mg | [Pd] | Pd
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | N-(3,4-Dichlorophenyl)-4-[(1-ethylpiperidin-3-yl)methyl]piperidine-1-carboxamide | 25 mg, 62% | ClC=1C=C(C=CC1Cl)NC(=O)N1CCC(CC1)CC1CN(CCC1)CC | C20H29Cl2N3O
